*****************************************************************
* NXP BUK9K6R2-40E
*
* Polarity N-Channel
* Ratings 40V/6.200000E-003OHMS/40A
*
* Date Created Thu Jul 05 00:38:22 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K6R2-40E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00357167467694121 TC=0.00440504137088444,1.77537126475307E-05
RBD 9 4 0.00170698683640773 TC=0.00440504137088444,1.77537126475307E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 2.299e-09
RG 1 2 1.57663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -15	1374.87
+ -12	1373.9
+ -10	1372.815
+ -8	1371.02
+ -6	1367.855
+ -5	1364.99
+ -4	1359.635
+ -3	1344.99
+ -2	1758.365
+ -1	1005.802
+ -0.5	728.071
+ -0.2	614.914
+ -0.1	563.218
+ 0	551.7495
+ 0.1	541.723
+ 0.2	455.985
+ 0.5	393.072
+ 1	341.746
+ 2	286.796
+ 3	255.737
+ 4	233.143
+ 5	216.362
+ 6	204.552
+ 8	190.607
+ 10	182.473
+ 12	176.962
+ 15	171.287
+ 20	164.295
+ 25	158.758
+ 30	154.266



.MODEL MINT NMOS(Vto=1.90048491520264 Kp=2.586584e+002 Nfs=160000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=5.42039437291972e-12
+ N=1 M=0.61 VJ=0.77 Fc=0.5 Cjo=1.447209e-09 Tt=2.37e-08)

.ENDS
